US04067723
(±) 1-(2,3-Dichlorophenyl)-1-(2-furyl)ethanol (92 g.) was heated on a steam bath in pyridine (250 ml.) containing p-toluenesulphonyl chloride (69 g.) for 1 hour. The solution was poured into ice water (1 liter) and extracted with diethyl ether (5 × 500 ml.). The combined ethereal extracts were washed with water (2 × 500 ml.), dried over sodium sulphate, filtered and evaporated to give a dark oil, which was distilled to give 1-(2,3-dichlorophenyl)-1-(2-furyl)ethylene as a pale yellow liquid (46 g.), b.p. 140°-180° C./20 mm.Hg.

reactant | (±) 1-(2,3-Dichlorophenyl)-1-(2-furyl)ethanol | 92 g | ClC1=C(C=CC=C1Cl)C(C)(O)C=1OC=CC1 | C12H10Cl2O2
reactant | p-toluenesulphonyl chloride | 69 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2,3-dichlorophenyl)-1-(2-furyl)ethylene | ClC1=C(C=CC=C1Cl)C(=C)C=1OC=CC1 | C12H8Cl2O
